US04782162
Ethyl Z-2-(2-acetamidothiazol-4-yl)-2-butenoate
150 parts by weight of ethyl 4-chloroacetoacetate are dissolved in 250 parts by weight of methylene chloride in a three-necked flask with a stirrer, reflux condenser, thermometer and dropping funnel and the solution is cooled to 10° C. 100 parts by weight of acetaldehyde are added all at once. A solution of 1.38 parts by volume of piperidine in 25 parts by volume of methylene chloride is then added dropwise at 10° C., with stirring, such that the internal temperature is kept between 10° and 20° C. When the dropwise addition has ended, the mixture is subsequently stirred at 20° C. for 1.5 hours. 107.6 parts by weight of acetylthiourea, 225 parts by volume of dimethylformamide and 125 parts by volume of water are then added to the batch and a distillation head/condenser is attached. The mixture is heated on a bath warmed to 80° C. When no further material distils over and the internal temperature has reached the 80° C. level, the mixture is subsequently stirred at 80° C. and then cooled to 10° to 15° C. The mixture is stirred at 10° to 15° C. for 30 minutes and the precipitate is filtered off with suction, rinsed with the mother liquor and sucked dry. The product which has been sucked dry is rinsed three times with 90 parts by volume of water each time and dried. The crude product is stirred with 241 ml of ethanol/water (3:1), filtered off with suction, washed with ethanol/water (3:1) and dried. 52.3 parts by weight of pure product are obtained.

reactant | ethyl 4-chloroacetoacetate | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | acetylthiourea | C(C)(=O)NC(=S)N | C3H6N2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl Z-2-(2-acetamidothiazol-4-yl)-2-butenoate | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)OCC)=C/C | C11H14N2O3S
